US09108969B2
Preparation of 2-(9-Chloro-7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 3)
To a solution of 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (34 mg, 0.074 mmol) dissolved in DCM (0.500 mL) and cooled to 0° C. was added NCS (9.92 mg, 0.074 mmol). The reaction was stirred at 0° C. for 15 min in a 20 mL sealed scintillation vial. After 15 min, the reaction mixture was diluted with DCM and washed with water (2×10 mL), washed with sodium thiolsulfate pentahydrate (aq.) (2×10 mL), dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure to give the title compound as a light yellow solid (32 mg). LCMS m/z=492.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.54-1.73 (m, 4H), 1.80-1.89 (m, 2H), 1.95-2.05 (m, 2H), 2.24-2.35 (m, 1H), 2.52-2.58 (m, 1H), 2.77-2.87 (m, 1H), 2.94 (dd, J=16.36, 4.11 Hz, 1H), 3.21-3.29 (m, 1H), 3.64-3.72 (m, 1H), 3.95-4.05 (m, 1H), 4.11-4.19 (m, 1H), 5.18 (s, 2H), 6.87 (dd, J=8.78, 2.46 Hz, 1H), 6.98 (d, J=2.27 Hz, 1H), 7.29 (d, J=8.84 Hz, 1H), 7.63 (d, J=7.96 Hz 1H), 7.69-7.76 (m, 2H), 12.35 (bs, 1H).

reactant | 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 0.074 mmol, 34 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C26H26F3NO3
reactant | NCS | 0.074 mmol, 9.92 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DCM | 0.500 mL | C(Cl)Cl | CH2Cl2
product | 2-(9-Chloro-7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 32 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F)CCC2CC(=O)O | C26H25ClF3NO3
